US09034900B2
4-[2-[(trans-4-hydroxycyclohexyl)amino]-5-methylsulfonylphenyl]-2-methylisoquinolin-1-one
A mixture of 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one (150 mg, 0.45 mmol) and trans-4-aminocyclohexan-1-ol (417 mg, 3.62 mmol) in NMP (0.2 mL) was heated for 20 min at 200-300° C. The cooled brownish residue was purified by prep-HPLC to give the title compound (55.64 mg, 28.8%) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.54 (d, J=8.0 Hz, 1H), 7.86 (dd, J1=8.8 Hz, J2=2.4 Hz, 1H), 7.66 (d, J=2.4 Hz, 1H), 7.60-7.55 (m, 2H), 7.15-7.13 (m, 2H), 6.79 (d, J=8.8 Hz, 1H), 3.91-3.85 (m, 1H), 3.67 (s, 3H), 3.63-3.55 (m, 1H), 3.37-3.34 (m, 1H), 3.06 (s, 3H), 2.04-1.92 (m, 5H), 1.44-1.35 (m, 2H), 1.11-1.02 (m, 2H). LCMS (M+H)+=427.1 (M+H)+

reactant | 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one | 0.45 mmol, 150 mg | FC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C17H14FNO3S
reactant | trans-4-aminocyclohexan-1-ol | 3.62 mmol, 417 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | NMP | 0.2 mL | CN1CCCC1=O | C5H9NO
product | 4-[2-[(trans-4-hydroxycyclohexyl)amino]-5-methylsulfonylphenyl]-2-methylisoquinolin-1-one | 55.64 mg, 28.8% | O[C@@H]1CC[C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C23H26N2O4S
